datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:11]1=[N:10]CC[O:12]1.FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[C:11]1=[O+:12]CC[N:10]1[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[Si:11](C)([H:10])[CH2:62][Si:63](C)(C)C>>COC1=CC=C([C:22]2=[CH:21][CH:20]([H:10])[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1.C[Si+:11](C)[CH2:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)(=[O:62])=[O:72]>>C[N:21](C)[CH:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10=20;20,21=21"
"CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64](C)=[C:63](C)[S:62]1.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64](C)=[C:63](C)[S:62]1)[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23].C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23].C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].C[C:10](C)=[CH:11][O:12][Si:63](C)(C)C>>CC[O:33][C:31]([CH:20]([C:10](C)(C)[CH:11]=[O+:12][Si:63](C)(C)C)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)(=[O:62])=[O:72]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1C[N:10]=[C:11]2[N:12](C1)CCC[S:62]2.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1CCC[N+:12]2=[C:11]1[S:62]CCC2)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]([O-:12])[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)C=C1.C1C[CH:20]=[CH:21][C:22](=[O:23])C1>>C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]([C:11](=[O:12])[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[CH:20]2CCC[C:22]([O-:23])=[CH:21]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.COC1=CC=C(/[C:11](=[CH:10]/[S+:61](C)C)[O-:12])C=C1>>COC1=CC=C([C:11]([CH:10]([CH:20]([C:31]2=[CH:32][C:33]3=[C:34](OCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]2)[S+:61](C)C)=[O:12])C=C1 10,11=10,20;12=11,12"
"COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+].CO[C:74]1=[CH:73][CH:72]=[C:71]([CH:11]([H:10])[CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1>>COC12C3C[CH:20]([H:10])C4C1[Fe-3:21]342(C#[O+])(C#[O+])C#[O+].CO[C:74]1=[CH:73][CH:72]=[C:71]([CH+:11][CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1 10,11=10,20;20,21=21"
"C/[CH:10]=[CH:11]/[CH:62]=[CH:63]/C.C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1>>C[CH:10]([CH+:11]/[CH:62]=[CH:63]/C)[CH:20]1CCCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10]CCCC1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>C[C+:11]1CCCC[CH:10]1[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.C1C[N:10]=[C:11]2[N:12](C1)CCC[S:62]2>>C1C[N:10]([CH:20]2CC[C:22]([O-:23])=[CH:21]2)[C:11]2=[N+:12](C1)CCC[S:62]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
